US07125896B2
b) 4-Bromo-2-chloro-[2-(2-methoxyethoxy)ethoxy]benzene
Prepared from 4-bromo-2-chlorophenol and 2-(2-methoxyethoxy)ethyl tosylate by the method of Example 42 (b).

reactant | 4-bromo-2-chlorophenol | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
reactant | 2-(2-methoxyethoxy)ethyl tosylate | S(=O)(=O)(OCCOCCOC)C1=CC=C(C)C=C1 | C12H18O5S
product | 4-Bromo-2-chloro-[2-(2-methoxyethoxy)ethoxy]benzene | BrC1=CC(=C(C=C1)OCCOCCOC)Cl | C11H14BrClO3
